US04216218
A mixture of 8.78 g of trans-4-(4-chlorophenoxy)-1-ethoxycarbonyl-3-phenylpiperidine, 64 ml of 20% aqueous NaOH solution and 125 ml of absolute ethanol is refluxed for 18 hours under nitrogen. The ethanol is then removed in vacuo and the aqueous residue is partitioned between dichloromethane and distilled water. The aqueous phase is extracted with dichloromethane, and the combined organic extracts are then washed with water, saturated aqueous NaCl solution, dried over anhydrous Na2SO4 and concentrated in vacuo to afford a solid which is recrystallized from cyclohexane to yield trans-4-(4-chlorophenoxy)-3-phenylpiperidine, mp 101.5°-103° C.

reactant | trans-4-(4-chlorophenoxy)-1-ethoxycarbonyl-3-phenylpiperidine | 8.78 g | ClC1=CC=C(O[C@H]2[C@@H](CN(CC2)C(=O)OCC)C2=CC=CC=C2)C=C1 | C20H22ClNO3
reactant | NaOH | 64 ml | [OH-].[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | trans-4-(4-chlorophenoxy)-3-phenylpiperidine | ClC1=CC=C(O[C@H]2[C@@H](CNCC2)C2=CC=CC=C2)C=C1 | C17H18ClNO
